US07081463B2
A 3-L 4-neck flask equipped with an overhead stirrer, a thermocouple, a condenser, a nitrogen inlet, and a 1-L addition funnel was charged with potassium (30 g, 0.764 mol) and THF (1 L). The metal suspension was heated to 60° C. for 30 min and then stirred to room temperature. To the reaction mixture was then added naphthalene (2 g, 0.015 mol), the suspension was stirred at room temperature for 10 min and then cooled to −20° C. to afford a blue suspension. A solution of 1H,3H-Benzo[de]isochromene (26 g, 0.153 mol) in THF (500 ml) was slowly added via the addition funnel, with addition controlled so that the reaction temperature did not exceed −15° C. After stirring for 5 h at −20° C., the suspension was removed from the cooling bath, warmed with stirring to 0° C., and then allowed to stand without stirring (potassium metal settling). The solution was decanted and the residual potassium was cooled and carefully decomposed with isopropyl alcohol (IPA) under N2. The decanted solution was carefully treated with water (20 mL) under nitrogen and stirring was continued for 20 min. Additional water and ether were added and the organic layer was separated. The aqueous layer was extracted with CH2Cl2 and the combined organics were dried over MgSO4 and condensed in vacuo to yield a crude material. The crude material was purified by flash chromatography (7.5/2.5 hexane/EtOAc) to yield 8-methyl-1-napthalenemethanol as a solid.

reactant | potassium | 0.764 mol, 30 g | [K] | K
reactant | naphthalene | 0.015 mol, 2 g | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | 1H,3H-Benzo[de]isochromene | 0.153 mol, 26 g | C1OCC2=C3C(C=CC=C13)=CC=C2 | C12H10O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 1 L | C1CCOC1 | C4H8O
product | 8-methyl-1-napthalenemethanol | CC=1C=CC=C2C=CC=C(C12)CO | C12H12O
